US07943800B2
To a suspension of NaH (4.40 g, 110 mmol, 60% dispersion in mineral oil) in toluene (90 mL) and MeOH (0.1 mL) at 0° C. was added a mixture of 3-pentanone (10.6 mL, 105 mmol) and methyl formate (8.00 mL, 130 mmol) over 1 hr. The reaction mixture was warmed to rt, stirred for another 3 h, and then diluted with Et2O. The suspension was filtered and the precipitate was washed with Et2O. The resulting crude sodium salt of 1-hydroxy-2-methyl-1-penten-3-one was dissolved in DMSO (100 mL) and Me2SO4 (9.16 mL, 97.0 mmol) was added at rt. After sting for 30 min, the reaction mixture was treated with 2M NH4OH and diluted with Et2O. The organic layer was separated, washed with H2O and saturated aqueous NaCl solution, dried (MgSO4), and concentrated under reduced pressure to afford 1-methoxy-2-methyl-1-penten-3-one (8.27 g, 74%). To a solution of 1-methoxy-2-methyl-1-penten-3-one (2.60 g, 20.3 mmol) in Et2O (12.0 mL) was added Et3N (7.08 mL, 50.8 mmol) and TMSOTf (3.68 mL, 20.3 mL) at 0° C. The reaction mixture was warmed to rt, stirred for another 3 h, and then poured onto a saturated aqueous NaHCO3 solution. The organic layer was separated, washed with saturated aqueous NaCl solution, dried (MgSO4), and concentrated under reduced pressure to afford butadiene 3 (3.66 g, 90%). 1H-NMR (400 MHz, CDCl3) δ6.35 (s, 1H), 4.75 (q, J=6.9, 1H), 3.63 (s, 3H), 1.66 (s, 3H), 1.62 (d, J=6.9, 3H), 0.22 (s, 9H).

reactant | NaH | 110 mmol, 4.40 g | [H-].[Na+]
reactant | 3-pentanone | 105 mmol, 10.6 mL | CCC(CC)=O | C5H10O
reactant | methyl formate | 130 mmol, 8.00 mL | C(=O)OC | C2H4O2
reactant | Me2SO4 | 97.0 mmol, 9.16 mL | COS(=O)(=O)OC | C2H6O4S
reactant | NH4OH | 2M | [NH4+].[OH-]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 0.1 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 1-methoxy-2-methyl-1-penten-3-one | 8.27 g, 74% | COC=C(C(CC)=O)C | C7H12O2
